US08487108B2
Step 4. (S)-2-(tert-butoxycarbonylamino)-3-(1-fluorocyclohexyl)propyl methanesulfonate
(S)-tert-butyl 1-(1-fluorocyclohexyl)-3-hydroxypropan-2-ylcarbamate (275 mg, 1.0 mmol, 1.0 equiv) was dissolved in CH2Cl2 and the mixture was cooled to 0° C. To this solution was added methanesulfonyl chloride (230 mg, 2.0 mmol, 2.0 equiv) and triethylamine (304 mg, 3.0 mmol, 3.0 equiv). The mixture was stirred at 0° C. for 0.5 h. After this time LC/MS showed consumption of the starting material. The mixture was transferred to a separatory funnel and 1.0 M aq HCl added. The layers were separated and the organic layer was washed with brine, dried over Na2SO4, filtered and evaporated. The crude (S)-2-(tert-butoxycarbonylamino)-3-(1-fluorocyclohexyl)propyl methanesulfonate was used directly in the next step.

reactant | (S)-tert-butyl 1-(1-fluorocyclohexyl)-3-hydroxypropan-2-ylcarbamate | 1.0 mmol, 275 mg, 1.0 equiv | FC1(CCCCC1)C[C@@H](CO)NC(OC(C)(C)C)=O | C14H26FNO3
reactant | methanesulfonyl chloride | 2.0 mmol, 230 mg, 2.0 equiv | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 3.0 mmol, 304 mg, 3.0 equiv | C(C)N(CC)CC | C6H15N
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | (S)-2-(tert-butoxycarbonylamino)-3-(1-fluorocyclohexyl)propyl methanesulfonate | CS(=O)(=O)OC[C@H](CC1(CCCCC1)F)NC(=O)OC(C)(C)C | C15H28FNO5S
